US09447076B2
Intermediate A: 3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-amine
To a stirred solution of p-tolylhydrazine hydrochloride (100 g, 630 mmol) in EtOH (1251 mL) was added 4,4-dimethyl-3-oxopentanenitrile (88 g, 699 mmol) and HCl (62.5 mL, 750 mmol). The resulting mixture was stirred at reflux overnight. The reaction mixture was cooled to room temperature and concentrated in vacuo to c.a. ⅓ of the original volume. The reaction mixture was then cooled in an ice-bath and taken to c.a. pH 8-9 with 6M aq NaOH. The reaction mixture was extracted with diethyl ether (500 mL) and the organic phase washed with water (2×300 mL) before being dried over magnesium sulphate and concentrated in vacuo to afford an orange solid. The solid was suspended in iso-hexane and stirred at reflux for 2.5 h before being cooled and filtered whilst still hot to yield the subtitle product 3-tert-butyl-1-p-tolyl-1H-pyrazol-5-amine as a pale brown solid (76.5 g, 52%); Rt 1.31 min (Method 1); m/z 230 (M+H)+ (ES+); 1H NMR δ: 1.20 (9H, s), 2.32 (3H, s), 5.10 (2H, br s), 5.35 (1H, s), 7.24 (2H, d), 7.42 (2H, m).

reactant | p-tolylhydrazine hydrochloride | 630 mmol, 100 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 4,4-dimethyl-3-oxopentanenitrile | 699 mmol, 88 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | HCl | 750 mmol, 62.5 mL | Cl | ClH
solvent | EtOH | 1251 mL | CCO | C2H6O
solvent | iso-hexane | CCCC(C)C | C6H14
product | 3-tert-butyl-1-p-tolyl-1H-pyrazol-5-amine | 76.5 g, 52% | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=C(C=C1)C | C14H19N3
